US05837711
Tri-n-butyl-isopropenyltin (12.1 g, 36.6 mmol) dissolved in toluene (10 ml) was added to a mixture of 5-bromo-o-anisaldehyde (6.00 g, 27.9 mmol), tetrakis (triphenylphosphine)palladium (1.21 g, 1.05 mmol), and 2,6-t-butyl4-methylphenol (10 mg) in toluene (50 ml) under nitrogen at room temperature. This mixture was heated at reflux for 7 hr. Ether and aq. KF solution (80 ml) were added to the reaction mixture, and the resulting solution was stirred for 3 hr. Insoluble materials were removed by filtration through Celite. The filtrate was extracted with ether, and the organic phase was washed with 1N-NaHSO4 aq. NaHCO3 and brine. The extracts were dried over Na2SO4, and concentrated by evaporation. The residual oil was purified by chromatography (SiO2, 140 g, 5%-EtOAc/hexane) to afford 5-isopropenyl-o-anis-aldehyde, as a yellow oil (2.49 g, 51%).

reactant | Tri-n-butyl-isopropenyltin | 36.6 mmol, 12.1 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
reactant | 5-bromo-o-anisaldehyde | 27.9 mmol, 6.00 g | BrC1=CC=C(C(C=O)=C1)OC | C8H7BrO2
reactant | Ether | CCOCC | C4H10O
reactant | KF | 80 ml | [F-].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-isopropenyl-o-anis-aldehyde | C(=C)(C)C1=CC=C(C(C=O)=C1)OC | C11H12O2
